US06835732B2
5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-phenoxy-benzothiazol-2-yl)-amide
Using 4-methoxy-7-phenoxy-benzothiazol-2-ylamine and 5-methyl-thiophene-2-carboxylic acid chloride the title compound was obtained crude, which was chromatographed over SiO2 (Merck 230-400 mesh) eluting with CH2Cl2/EtOAc (1:1), to afford the pure title compound as a pale yellow solid (76% yield), MS: m/e=396.0 (M+).

reactant | 4-methoxy-7-phenoxy-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)OC2=CC=CC=C2 | C14H12N2O2S
reactant | 5-methyl-thiophene-2-carboxylic acid chloride | CC1=CC=C(S1)C(=O)Cl | C6H5ClOS
product | 5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-phenoxy-benzothiazol-2-yl)-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)OC2=CC=CC=C2 | C20H16N2O3S2
